US04359584
A mixture of 110 parts of methyl N-(4-tert.-pentyl-phenyl)-carbamate, 400 parts of aniline, 400 parts of methanol and 0.2 part of sodium methylate is heated to 200° C. in an autoclave and kept at this temperature for 4 hours. The mixture is then subjected to fractional distillation under reduced pressure. 67 parts (83% of theory) of 4-tert.-pentylaniline, of boiling point 140°-142° C./16 mbar, are obtained.

reactant | methyl N-(4-tert.-pentyl-phenyl)-carbamate | C(C)(C)(CC)C1=CC=C(C=C1)NC(OC)=O | C13H19NO2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 4-tert.-pentylaniline | 83% | C(C)(C)(CC)C1=CC=C(N)C=C1 | C11H17N
